US04667032
Following the procedure described in Example 10 but substituting 2-amino-5-methylthiophenol for 2-amino-3-methoxythiophenol and substituting 2-methyl-p-benzoquinone for p-benzoquinone, a mixture of the title compounds were obtained. Chromatography on silica gel eluting with 10% EtOAc in CH2Cl2 afforded firstly 2,7-dimethyl-3H-phenothiazin-3-one, m.p. 177° C.

reactant | 2-amino-3-methoxythiophenol | NC1=C(C=CC=C1OC)S | C7H9NOS
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,7-dimethyl-3H-phenothiazin-3-one | CC1=CC2=NC3=CC=C(C=C3SC2=CC1=O)C | C14H11NOS
